US08216547B2
A 5-L 3-neck flask equipped with an overhead mechanical stirrer, N2 inlet/outlet adapter, and thermocouple was charged with 4M HCl in 1,4-dioxane (3.1 L), tert-butyl-3-methylbenzo[b]thiophen-2-ylcarbamate (265 g, 1.0 mol) and stirred for 18 h at 22° C. The resulting white precipitate was collected by filtration, washed with diethyl ether (3×500 mL), and dried under house vacuum at 40° C. for 48 h to yield 3-methylbenzo[b]thiophen-2-amine hydrochloride as a white solid. 1H-NMR (DMSO-d6) δ 8.7 (br s, 3H), 7.71 (d, 1H), 7.44 (d, 1H), 7.29 (t, 1H), 7.14 (t, 1H), 2.184 (s, 3H).

reactant | HCl | 4M | Cl | ClH
reactant | tert-butyl-3-methylbenzo[b]thiophen-2-ylcarbamate | 1.0 mol, 265 g | C(C)(C)(C)OC(NC1=C(C2=C(S1)C=CC=C2)C)=O | C14H17NO2S
solvent | 1,4-dioxane | 3.1 L | O1CCOCC1 | C4H8O2
product | 3-methylbenzo[b]thiophen-2-amine hydrochloride | Cl.CC=1C2=C(SC1N)C=CC=C2 | InChI=1S/C9H9NS.ClH/c1-6-7-4-2-3-5-8(7)11-9(6)10;/h2-5H,10H2,1H3;1H
